US06162445
Preparation of 2-hydroxy-4-[3-oxo-3-(3-tert-butyl-4-methoxyphenyl)-1-propynyl]benzoic acid:
Following the basic procedure of Example 1(b), by reacting 4.2 g (0.02 mol) of 3-tert-butyl-4-methoxybenzoyl chloride with 5 g (0.02 mol) of methyl 2-hydroxy-4-trimethylsilylethynylbenzoate, 6 g (81%) of the expected compound were obtained, after purification by chromatography on a silica column eluted with dichloromethane, in the form of a brown oil.

reactant | 3-tert-butyl-4-methoxybenzoyl chloride | 0.02 mol, 4.2 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1OC | C12H15ClO2
reactant | methyl 2-hydroxy-4-trimethylsilylethynylbenzoate | 0.02 mol, 5 g | OC1=C(C(=O)OC)C=CC(=C1)C#C[Si](C)(C)C | C13H16O3Si
product | 2-hydroxy-4-[3-oxo-3-(3-tert-butyl-4-methoxyphenyl)-1-propynyl]benzoic acid | 6 g, 81% | OC1=C(C(=O)O)C=CC(=C1)C#CC(C1=CC(=C(C=C1)OC)C(C)(C)C)=O | C21H20O5
